US06352982B1
To a methanol (20 ml) solution of 2-amino-3′-tritylaminomethyl-5-chlorobenzophenone (2 g) was added sodium borohydride (227 mg). The mixture was stirred for 3 hours at room temperature, to which was added acetic acid ethyl ester (100 ml). The mixture was washed with water and then dried over anhydrous MgSO4. The solvent was then distilled off, and the residue was purified by means of a silica gel column chromatography to give the-object 2-amino-5-chloro-α-(3-tritylaminomethylphenyl)benzyl alcohol (2.0 g) as a colorless oily product.

reactant | methanol | 20 ml | CO | CH4O
reactant | 2-amino-3′-tritylaminomethyl-5-chlorobenzophenone | 2 g | NC1=C(C(=O)C2=CC(=CC=C2)CNC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C(C=C1)Cl | C33H27ClN2O
reactant | sodium borohydride | 227 mg | [BH4-].[Na+]
solvent | acetic acid ethyl ester | 100 ml | C(C)OC(C)=O | C4H8O2
product | 2-amino-5-chloro-α-(3-tritylaminomethylphenyl)benzyl alcohol | 2.0 g | NC1=C(C(C2=CC(=CC=C2)CNC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)O)C=C(C=C1)Cl | C33H29ClN2O
